US08541457B2
Synthesis of 2-Benzoylamino-4-methylthiazole-5-carboxylic Acid Benzylamide
Benzoyl chloride (0.04 mL, 0.36 mmol) was added to a mixture of 2-amino-4-methylthiazole-5-carboxylic acid benzylamide (0.083 g, 0.033 mmol), 4-dimethylamino-pyridine (10 mg) and triethylamine (0.06 mL, 0.43 mmol) in tetrahydrofuran (10 mL) at 0° C. The reaction mixture was stirred at ambient temperature for 8 h, then concentrated. The residue was purified by column chromatography to afford the title compound in 75% yield (87 mg); 1H NMR (CDCl3, 300 MHz) δ 7.90-7.24 (m, 11H), 5.97 (s, br, 1H), 4.59 (d, J=5.8 Hz, 2H), 2.45 (s, 3H); MS (ES+) m/z 352.0 (M+1).

reactant | Benzoyl chloride | 0.36 mmol, 0.04 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | 0.033 mmol, 0.083 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | triethylamine | 0.43 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylamino-pyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Benzoylamino-4-methylthiazole-5-carboxylic Acid Benzylamide | 75% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)=O)C | C19H17N3O2S
